US04898862
15(a) 4,5-Dihydro-6-(p-hydroxyphenyl)-1,2,4-triazin-3-(2H)-one
A mixture of 20 g of ethyl N-(p-hydroxyphenacyl)carbamate (prepared as described in Preparation 6), 56 g of 80% hydrazine hydrate and 100 ml of butanol was heated under reflux for 30 hours, whilst stirring. The reaction mixture was then concentrated by evaporation under reduced pressure, and the residue was washed with ethanol to give 9.25 g of the title compound as crystals, melting at 266°-269° C. (with decomposition).

reactant | ethyl N-(p-hydroxyphenacyl)carbamate | 20 g | OC1=CC=C(C(CNC(OCC)=O)=O)C=C1 | C11H13NO4
reactant | hydrazine hydrate | 56 g | O.NN
solvent | butanol | 100 ml | C(CCC)O | C4H10O
product | 4,5-Dihydro-6-(p-hydroxyphenyl)-1,2,4-triazin-3-(2H)-one | 9.25 g | OC1=CC=C(C=C1)C=1CNC(NN1)=O | C9H9N3O2
